US07705027B2
1-(2,4-Dihydroxy-5-isobutyl-phenyl)-ethanone (1 eq) was dissolved in DMF and potassium carbonate (4.4 eq) then benzyl bromide (4.4 eq) was added. The suspension was heated, with stirring to 150° C., under nitrogen, for 16 hrs. The solution was cooled to room temperature, filtered and concentrated to dryness. This solid was purified column chromatography (silica, hexanes:ethyl aceate 4:1) then re-crystallised from ethyl acetate:hexanes to give 1-(2,4-Bis-benzyloxy-5-isobutyl-phenyl)-ethanone as colourless crystals.

reactant | 1-(2,4-Dihydroxy-5-isobutyl-phenyl)-ethanone | 1 eq | OC1=C(C=C(C(=C1)O)CC(C)C)C(C)=O | C12H16O3
reactant | potassium carbonate | 4.4 eq | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 4.4 eq | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(2,4-Bis-benzyloxy-5-isobutyl-phenyl)-ethanone | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)CC(C)C)C(C)=O | C26H28O3
